US06486158B1
A 3 M ethanolic solution of hydrazine (20 ml, 60 mmol) is added to 2-(4-chlorobenzoyl)benzoic acid (5.5 g, 20 mmol), and the mixture is stirred at room temperature for 5 hours. Precipitation gives 4-(4-chlorophenyl)-1-hydroxy-phthalazine.

reactant | hydrazine | 60 mmol, 20 ml | NN | H4N2
reactant | 2-(4-chlorobenzoyl)benzoic acid | 20 mmol, 5.5 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
product | 4-(4-chlorophenyl)-1-hydroxy-phthalazine | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)O | C14H9ClN2O
